US06194487B1
Next, in the mixing section 22, the vapor atmosphere of terephthaloyl chloride was cooled, and the introduced base particles were exposed thereto for 2 minutes. Consequently, a polymerization reaction, using as a catalyst triethylamine contained in the base particles, took place on the surface of the base particles between 2-mercaptoethanol and terephthaloyl chloride, forming a film of 2-mercaptoethanol-terephthaloyl chloride co-polymer.

reactant | terephthaloyl chloride | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | 2-mercaptoethanol | SCCO | C2H6OS
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-mercaptoethanol terephthaloyl chloride | SCCO.C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | InChI=1S/C8H4Cl2O2.C2H6OS/c9-7(11)5-1-2-6(4-3-5)8(10)12;3-1-2-4/h1-4H;3-4H,1-2H2
